US09260439B2
Step 3: Preparation of tert-butyl(3S)-3-[4-chloro-2-(methylsulfanyl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidine-1-carboxylate
To a solution of tert-butyl(3S)-3-{[6-chloro-2-(methylsulfanyl)-5-{2-[(methylsulfonyl)oxy]ethyl}pyrimidin-4-yl]amino}-3-methylpyrrolidine-1-carboxylate (1635 mg, 3.4 mmol) in DMF (34 mL) was added DBU (1.1 mL, 6.8 mmol) and the mixture was stirred at 80° C. for 90 min. The reaction mixture was diluted with EtOAc (20 mL), washed with water (20 mL) and brine (20 mL), dried over Na2SO4 and concentrated to give the title compound (1.24 g, 95%) as a light yellow-white solid. 1H NMR (400 MHz, DMSO-d6) δ 3.80-3.57 (m, 4 H), 3.40-3.35 (m, 1 H), 3.28-3.19 (m, 1 H), 2.91 (t, J=8.9 Hz, 2 H), 2.42 (s, 3 H), 2.39-2.24 (m, 1 H), 2.07-1.94 (m, 1 H), 1.39 (d, J=5.4 Hz, 9 H), 1.28 (s, 3 H). m/z (APCI+) for C17H25ClN4O2S 385.1 (M+H)+.

reactant | tert-butyl(3S)-3-{[6-chloro-2-(methylsulfanyl)-5-{2-[(methylsulfonyl)oxy]ethyl}pyrimidin-4-yl]amino}-3-methylpyrrolidine-1-carboxylate | 3.4 mmol, 1635 mg | ClC1=C(C(=NC(=N1)SC)N[C@@]1(CN(CC1)C(=O)OC(C)(C)C)C)CCOS(=O)(=O)C | C18H29ClN4O5S2
reactant | DBU | 6.8 mmol, 1.1 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 34 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | tert-butyl(3S)-3-[4-chloro-2-(methylsulfanyl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidine-1-carboxylate | 1.24 g, 95% | ClC=1C2=C(N=C(N1)SC)N(CC2)[C@@]2(CN(CC2)C(=O)OC(C)(C)C)C | C17H25ClN4O2S
